US09255094B2
Preparation of 2-(8-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-phenylethanone (Compound No. 1-36)
8-Chloro-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (220 mg, 10 mmol) was dissolved in NMP (2 mL). KOH (560 mg, 0.010 mol) was then added, followed by addition of 2-bromoacetophenone (199 mg, 0.001 mol). The reaction was kept overnight at RT and was monitored by TLC & LC/MS. The reaction was quenched by adding water, and extracted using EtOAc, which was then washed with water (2-3×). The organic layer was dried over sodium sulfate and then concentrated to yield 60 mg of dark brown crude oil that was purified by column chromatography using 100-200 mesh silica gel with 4% MeOH:DCM as eluent. 1HNMR (CDCl3, TFA salt) d (ppm): 8.0 (m, 2H), 7.70 (m, 1H), 7.60 (m, 2H), 7.40 (d, 1H), 7.20 (m, 1H), 7.05 (m, 1H), 5.60 (m, 1H), 5.38 (m, 1H), 4.80 (m, 1H), 4.20 (m, 1H), 3.90 (m, 1H), 3.40 (m, 2H), 3.05 (s, 3H), 1.90 (m, 1H).

reactant | 8-Chloro-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 10 mmol, 220 mg | ClC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13ClN2
reactant | KOH | 0.010 mol, 560 mg | [OH-].[K+]
reactant | 2-bromoacetophenone | 0.001 mol, 199 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 2-(8-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-phenylethanone | 60 mg | ClC1=CC=2C3=C(N(C2C=C1)CC(=O)C1=CC=CC=C1)CCN(C3)C | C20H19ClN2O
